US06930120B2
2-{4-[2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzyl}-2-phenoxy-butyric acid
The Standard Procedure (B) was utilized to prepare the title compound from 2-(4-hydroxybenzyl)-2-phenoxybutyric acid ethyl ester and toluene-4-sulfonic acid 2-(2-phenyl-5-methyl-oxazol-4-yl)-ethyl ester. 1H NMR (400 MHz, CDCl3) δ 7.99-7.94 (m, 2H), 7.44-7.40 (m, 3H), 7.32-7.28 (m, 2H), 7.07 (t, 1H, J=7.4 Hz), 7.02-6.97 (m, 4H), 6.79-6.74 (m, 2H), 4.18 (t, 2H, J=6.6 Hz), 3.29 (s, 2H), 2.98 (t, 2H, J=6.6 Hz), 2.37 (s, 3H), 2.14 (qd, 1H, J=14.8, 7.6 Hz), 2.07 (qd, 1H, J=14.8, 7.6 Hz), 0.91 (t, 3H, J=7.6 Hz).

reactant | 2-(4-hydroxybenzyl)-2-phenoxybutyric acid ethyl ester | C(C)OC(C(CC)(OC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C19H22O4
reactant | toluene-4-sulfonic acid 2-(2-phenyl-5-methyl-oxazol-4-yl)-ethyl ester | C1(=CC=CC=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C19H19NO4S
product | 2-{4-[2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzyl}-2-phenoxy-butyric acid | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(CC(C(=O)O)(CC)OC2=CC=CC=C2)C=C1 | C29H29NO5
